US07304184B2
A reaction was performed by the procedure of Example 1, except for using 1,4-butanediol instead of 1-octanol and using allyl acetate in an amount of 10 mmol. The reaction mixture was analyzed by gas chromatography to find that 3-(4-allyloxy-butoxy)-propene and 4-allyloxy-1-butanol were formed in yields of 78% and 6%, respectively.

reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | allyl acetate | C(C)(=O)OCC=C | C5H8O2
reactant | 3-(4-allyloxy-butoxy)-propene | C(C=C)OCCCCOCC=C | C10H18O2
product | 4-allyloxy-1-butanol | C(C=C)OCCCCO | C7H14O2
